US07259179B2
6-Chloro-N-(4-morpholin-4-ylphenyl)pyrazin-2-amine
In a procedure analogous to example 1, reaction of 4-morpholinoaniline (2.15 g, 12.1 mmol) and 2,6-dichloropyrazine (0.756 g, 5.03 mmol) furnished the product (0.54 g, 37%).

reactant | 4-morpholinoaniline | 12.1 mmol, 2.15 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | 2,6-dichloropyrazine | 5.03 mmol, 0.756 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
product | 6-Chloro-N-(4-morpholin-4-ylphenyl)pyrazin-2-amine | 0.54 g, 37% | ClC1=CN=CC(=N1)NC1=CC=C(C=C1)N1CCOCC1 | C14H15ClN4O
